US05929298
A solution of 5.1 grams of 5-vinyl-5-nonanol in 25 ml of toluene containing 38 mg of MTO was refluxed overnight, cooled, washed with aq. potassium carbonate, dried, stripped, and the residue distilled at 25 mm Hg to give 2.55 g (56%) of 5-vinyl-4-nonene as a cis/trans mixture, identified by NMR spectroscopy.

reactant | 5-vinyl-5-nonanol | 5.1 grams | C(=C)C(CCCC)(CCCC)O | C11H22O
solvent | toluene | 25 ml, 38 mg | C1(=CC=CC=C1)C | C7H8
product | 5-vinyl-4-nonene | 2.55 g, 56% | C(=C)C(=CCCC)CCCC | C11H20
